US05079256
To 420 mg of 4-(3,4-dimethoxyphenyl)-8-methyl-1,-2,3,4-tetrahydroisoquinoline, was added 48% hydrobromic acid, and the mixture was heated under reflux for 3 hours. After about 10 minutes, the crystals become separated out. The reaction mixture was cooled, and the crystals were collected by filtration, giving 420 mg of 4-(3,4-dihydroxyphenyl)-8-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | 4-(3,4-dimethoxyphenyl)-8-methyl-1,-2,3,4-tetrahydroisoquinoline | 420 mg | COC=1C=C(C=CC1OC)C1CNCC2=C(C=CC=C12)C | C18H21NO2
reactant | hydrobromic acid | Br | BrH
product | 4-(3,4-dihydroxyphenyl)-8-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | 420 mg | Br.OC=1C=C(C=CC1O)C1CNCC2=C(C=CC=C12)C | InChI=1S/C16H17NO2.BrH/c1-10-3-2-4-12-13(10)8-17-9-14(12)11-5-6-15(18)16(19)7-11;/h2-7,14,17-19H,8-9H2,1H3;1H
